US04282242
5-(3-Trifluoromethylphenylthio)pyrrole-3-carboxylic Acid
Methyl 5-(3-trifluoromethylphenylthio)pyrrole-3-carboxylate (2.9 g.) was combined with 30 ml. of methanol and 30 ml. of 1 N sodium hydroxide and refluxed for 2.5 hours. The methanol was allowed to evaporate and the aqueous residue washed twice with ether. The aqueous phase was acidified with conc. hydrochloric acid and the crude product (2.3 g.) which precipitated, was recovered by filtration. Recrystallization of the crude from methanol/water gave purified 5-(3-trifluoromethylphenylthio)pyrrole-3-carboxylic acid (1.47 g., m.p. 138°-140° C.).

reactant | Methyl 5-(3-trifluoromethylphenylthio)pyrrole-3-carboxylate | 2.9 g | FC(C=1C=C(C=CC1)SC1=CC(=CN1)C(=O)OC)(F)F | C13H10F3NO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(3-Trifluoromethylphenylthio)pyrrole-3-carboxylic Acid | FC(C=1C=C(C=CC1)SC1=CC(=CN1)C(=O)O)(F)F | C12H8F3NO2S
